US07612075B2
A. 2-(5-Chloro-thiophen-2-yl)-ethenesulfonic acid ethyl ester.
n-Butyllithium (53.1 mL, 2.5M solution in hexanes) is added dropwise to a solution of ethylmethanesulfonate (12.9 mL, 0.12 mol) in THF (300 mL) at −78° C. The reaction mixture is stirred for 15 min then ethylchlorophosphonate (9.9 mL, 0.07 mol) is added dropwise. The solution is stirred at −78° C. for 30 minutes and then heated to 50° C. for 1 hour. The reaction mixture is then cooled to −78° C. and stirred for 1 h then 5-chlorothiophenecarboxaldehyde (7.1 mL, 0.07 mol) is added dropwise. The reaction mixture is allowed to slowly warm to RT overnight. Water (30 mL) is added to the mixture and stirred for 15 min then concentrated in vacuo. The residue is taken up in CH2Cl2 and washed with water, brine, dried over MgSO4, filtered and concentrated to dryness. The crude product is purified by column chromatography eluting with 5% EtOAc/hexanes to give title product (11.3 g, 0.04 mol) as an oil. 1H NMR (CDCl3, 300 MHz) δ7.51 (d, 1H), 7.10 (d, 1H), 6.91 (d, 1H), 6.42 (d, 1H), 4.20 (q, 2H), 1.40 (t, 3H).

reactant | n-Butyllithium | 2.5M, 53.1 mL | C(CCC)[Li]
reactant | ethylmethanesulfonate | 0.12 mol, 12.9 mL | C(C)CS(=O)(=O)[O-]
reactant | ethylchlorophosphonate | 0.07 mol, 9.9 mL | C(C)OP([O-])(=O)Cl
reactant | 5-chlorothiophenecarboxaldehyde | 0.07 mol, 7.1 mL | ClC1=CC=C(S1)C=O | C5H3ClOS
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | Water | 30 mL | O | H2O
product | 2-(5-Chloro-thiophen-2-yl)-ethenesulfonic acid ethyl ester | 0.04 mol, 11.3 g | C(C)OS(=O)(=O)C=CC=1SC(=CC1)Cl | C8H9ClO3S2
